US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-phenyl-1H-[1,2,4]-triazole
The title compound was prepared from benzamidine hydrochloride and 3-chloro-thiophene-2-carboxylic acid hydrazide by a procedure similar to Example 88b as a yellowish solid (0.141 g, 37%). 1H NMR (DMSO-d6): 8.04 (d, J=9.6 Hz, 2H), 7.80 (d, J=6.0 Hz, 1H), 7.55 (d, J=7.80 Hz, 3H), 7.19 (d, J=5.70 Hz, 1H).

reactant | benzamidine hydrochloride | Cl.C(C1=CC=CC=C1)(=N)N
reactant | 3-chloro-thiophene-2-carboxylic acid hydrazide | ClC1=C(SC=C1)C(=O)NN | C5H5ClN2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-phenyl-1H-[1,2,4]-triazole | ClC1=C(SC=C1)C1=NC(=NN1)C1=CC=CC=C1 | C12H8ClN3S
